US09387202B2
N-(5-chloro-4-((2-chloropyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (0.05 g, 0.094 mmol) was combined with acetamide (8 mg, 0.14 mmol), Cs2CO3 (0.05 g, 0.14 mmol) and Xantphos (6 mg, 0.010 mmol) in dioxane (2 mL) and the mixture sparged with argon for several minutes. Pd2(dba)3 (5 mg, 0.005 mmol) was added and the mixture was sparged again with argon. The reaction vessel was sealed and heated at 100° C. overnight. The cooled reaction mixture was diluted with brine and extracted with EtOAc (2×). The organics were dried over Na2SO4, filtered and concentrated in vacuo. The crude was purified by silica gel chromatography (50-100% EtOAc/hexanes). The purified residue was treated with CH3CN:H2O (1:1, 2 mL), frozen and lyophilized to obtain N-(4-((2-acetamidopyridin-4-yl)oxy)-5-chloro-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (27 mg, 50.5% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.19 (s, 1 H), 10.57 (s, 1 H), 8.50 (d, J=7.9 Hz, 1 H), 8.17 (d, J=5.7 Hz, 1 H), 7.92 (d, J=7.8 Hz, 1 H), 7.61 (br s, 1 H), 7.49 (m, 3 H), 7.36 (t, J=8.7 Hz, 2 H), 6.65 (dd, J=5.7, 2.4 Hz, 1 H), 6.55 (d, J=7.9 Hz, 1 H), 4.28 (q, J=7.0 Hz, 2 H), 2.03 (s, 3 H), 1.34 (t, J=7.0 Hz, 3 H); MS (ESI) m/z: 555.1 (M+H+).

reactant | N-(5-chloro-4-((2-chloropyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 0.094 mmol, 0.05 g | ClC=1C(=CC(=C(C1)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F)OC1=CC(=NC=C1)Cl | C25H17Cl2F2N3O4
reactant | acetamide | 0.14 mmol, 8 mg | C(C)(=O)N | C2H5NO
reactant | Cs2CO3 | 0.14 mmol, 0.05 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.010 mmol, 6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Pd2(dba)3 | 0.005 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-((2-acetamidopyridin-4-yl)oxy)-5-chloro-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 27 mg, 50.5% yield | C(C)(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1Cl)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F | C27H21ClF2N4O5
